US06518423B1
(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-yl)-3-methylisoxazole
Similar to Example 1223, 1-(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)-1,3-butanedione was treated with hydroxylamine to thereby give (10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)-3-methylisoxazole. Further, this product was treated by the same method as the one of Example 9 to thereby give the title compound.

reactant | 1-(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)-1,3-butanedione | COCN1C2=C(SC3=C1C=C(C=C3)C(CC(C)=O)=O)N=CC=N2 | C16H15N3O3S
reactant | hydroxylamine | NO | H3NO
reactant | (10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)-3-methylisoxazole | COCN1C2=C(SC3=C1C=C(C=C3)C=3C(=NOC3)C)N=CC=N2 | C16H14N4O2S
product | (10H-Pyrazino[2,3-b][1,4]benzothiazin-8-yl)-3-methylisoxazole | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)C=3C(=NOC3)C | C14H10N4OS
